US07855194B2
Step 1: 3,5-Diethoxy-4-pyrrol-1-yl-benzoic acid ethyl ester
To a solution of 4-amino-3,5-diethoxy-benzoic acid ethyl ester (3.0 g, 11.84 mmol, 1.0 equiv; prepared as described in I. Kompis and A. Wick Helv. Chim. Acta 1977, 60, 3025-3034) in heptane (10 mL) and conc. acetic acid (0.2 mL) was added 2,5-dimethoxy-tetrahydro-furan (1.88 g, 14.21 mmol, 1.2 equiv). After heating to reflux for 5 h, a Dean-Stark apparatus was attached and the reaction mixture heated for an additional time period of 5 h. Filtration of the crude reaction mixture and crystallization at 0° C. from heptane provided 2.94 g (82%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.15 (t, J=7.0 Hz, 6H), 1.27 (t, J=7.1 Hz, 3H), 3.98 (q, J=7.0 Hz, 4H), 4.28 (q, J=7.1 Hz, 2H), 6.07-6.08 (m, 2H), 6.73-6.74 (m, 2H), 7.22 (s, 2H). 13C NMR (75 MHz, DMSO): δ 14.11, 14.35, 61.06, 64.57, 106.87, 107.64, 122.61, 123.33, 129.29, 153.75, 165.06. MS (ISP): 303.4 [M+H]+.

reactant | 4-amino-3,5-diethoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)OCC)N)OCC)=O | C13H19NO4
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | 2,5-dimethoxy-tetrahydro-furan | 14.21 mmol, 1.88 g, 1.2 equiv | COC1OC(CC1)OC | C6H12O3
solvent | heptane | 10 mL | CCCCCCC | C7H16
product | 3,5-Diethoxy-4-pyrrol-1-yl-benzoic acid ethyl ester | 2.94 g, 82% | C(C)OC(C1=CC(=C(C(=C1)OCC)N1C=CC=C1)OCC)=O | C17H21NO4
